US08486940B2
(S)-4-(4-(2-(dimethylamino)ethoxy)phenyl)-3-(1H-benzo[d]imidazol-5-yl)oxazolidin-2-one
The compound was synthesized according to method 5 starting from 4-(2-(dimethylamino)ethoxy)benzaldehyde (3 g, 15.70 mmol), 2.3 M n-butyl lithium (13.65 mL, 15.7 mmol), triphenyl phosphonium methyl bromide (11.21 g, 17 mmol) T-butyl hypochlorite (2.7 mL, 22.32 mmol), t-butyl carbamate (2.66 g, 22.72 mmol) 0.4M aqueous sodium hydroxide (0.9 g in 57 mL water), osmate dihydrate (100 mg, 0.29 mmol), thionyl chloride (1.2 mL, 16.49 mmol), 4-bromo 1,2-diamino benzene (0.31 mg, 0.1.672 mmol), and copper iodide (44 mg, 0.228), 1,2-diaminocyclohexane (26 mg, 0.228), formic acid (3 mL). Yield: 0.110 g (2.0%); MS m/z 367.2 (M+H)+; 1H NMR (400 MHz, CDCl3): δ10.40 (Bs, 1H); 7.89 (s, 1H); 7.53 (s, 1H); 7.26-7.19 (merged with CDCl3, 5H); 6.81 (d, 2H); 5.33 (t, 1H); 4.79 (q, 1H); 4.25 (t, 1H); 4.00 (t, 2H); 2.70 (t, 2H); 2.34-2.25 (m, 6H); HPLC (λ=214 nm), [A]: rt 5.79 min (94.7%).

reactant | 4-(2-(dimethylamino)ethoxy)benzaldehyde | 15.70 mmol, 3 g | CN(CCOC1=CC=C(C=O)C=C1)C | C11H15NO2
reactant | n-butyl lithium | 15.7 mmol, 2.3 M, 13.65 mL | C(CCC)[Li]
reactant | triphenyl phosphonium methyl bromide | 17 mmol, 2.7 mL, 11.21 g | CBr.C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | t-butyl carbamate | 22.72 mmol, 0.4M, 57 mL, 2.66 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | thionyl chloride | 16.49 mmol, 1.2 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-bromo 1,2-diamino benzene | 0.31 mg | BrC1=CC(=C(C=C1)N)N | C6H7BrN2
reactant | 1,2-diaminocyclohexane | 26 mg | NC1C(CCCC1)N | C6H14N2
catalyst | copper iodide | 44 mg | [Cu](I)I
solvent | formic acid | 3 mL | C(=O)O | CH2O2
product | (S)-4-(4-(2-(dimethylamino)ethoxy)phenyl)-3-(1H-benzo[d]imidazol-5-yl)oxazolidin-2-one | CN(CCOC1=CC=C(C=C1)[C@@H]1N(C(OC1)=O)C1=CC2=C(NC=N2)C=C1)C | C20H22N4O3
